US07842685B2
Synthesis of N-cyclopropyl-3-fluoro-4-(5-(1-phenylcyclopropyl)[1,3]thiazolo[5,4-b]pyridin-2-yl)benzamide
The title compound was synthesized using the procedure described in Example 105 above, with 3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzoic acid (93 mg, 0.238 mmol) and cyclopropanamine (20 μl, 0.286 mmol). MS (ESI) m/z: Calculated: 429.1; Observed: 430.1 (M++1).

reactant | 3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzoic acid | 0.238 mmol, 93 mg | FC=1C=C(C(=O)O)C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1 | C22H15FN2O2S
reactant | cyclopropanamine | 0.286 mmol, 20 μl | C1(CC1)N | C3H7N
product | N-cyclopropyl-3-fluoro-4-(5-(1-phenylcyclopropyl)[1,3]thiazolo[5,4-b]pyridin-2-yl)benzamide | C1(CC1)NC(C1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)F)=O | C25H20FN3OS
